US08729274B2
trans-2-Benzyl-6-bromo-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.561 mmol, 200 mg) was dissolved in DME (1 ml) and ethanol (0.5 ml). 2 N sodium carbonate solution (1 ml) was added along with (Z)-prop-1-enylboronic acid (0.842 mmol, 72.3 mg) and tetrakis(triphenylphosphine)Pd(0) (0.028 mmol, 32.4 mg). The reaction mixture was heated to 160° C. for 15 minutes in a microwave reactor and then diluted with water. The resulting mixture was extracted with DCM (3×) and the combined organic extracts were dried over Na2SO4 and concentrated in vacuo to afford a crude residue that was purified by silica column chromatography (eluting with 10% EtOAc in heptane) to afford trans-2-benzyl-3a-methyl-6-((Z)-prop-1-enyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (120 mg), m/z: 318.2 [M+H]+.

reactant | trans-2-Benzyl-6-bromo-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.561 mmol, 200 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@@H]2C1)C=CC=C3Br)C | C20H22BrN
reactant | sodium carbonate | 2 N, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | (Z)-prop-1-enylboronic acid | 0.842 mmol, 72.3 mg | C(=C/C)/B(O)O | C3H7BO2
solvent | DME | 1 ml | COCCOC | C4H10O2
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | trans-2-benzyl-3a-methyl-6-((Z)-prop-1-enyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 120 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@@H]2C1)C=CC=C3\C=C/C)C | C23H27N
